US09403810B2
Step 2: 2-Cyclohexyl-1,5-dimethyl-1H-pyrazol-3(2H)-one
A suspension of 2-cyclohexyl-5-methyl-1H-pyrazol-3(2H)-one (525 g, 2834 mmol) in N,N-dimethylformamide (2200 mL) was heated to 40° C. and methyl iodide (532 mL, 8502 mmol) was added. The reaction mixture was heated to 70° C. for 20 hours. Further methyl iodide (177 mL, 2834 mmol) was added and the mixture was stirred at 75° C. for 3.5 hours, then 80° C. for 20 hours. The resulting mixture was concentrated under reduced pressure and the residue was triturated with TBME (2000 mL). The product was collected by filtration, washing with TBME (5×500 mL) to give a solid. The isolated solid was suspended in DCM (2500 mL) and water (500 mL) and the pH adjusted to pH 9 using an aqueous 2M K2CO3 solution (1700 mL). The phases were separated and the aqueous layer was extracted with DCM (3×500 mL). The combined organic extracts were washed with brine (1000 mL) and concentrated under reduced pressure. The resulting residue was dissolved in ethyl acetate (2000 mL), dried over anhydrous sodium sulfate and filtered through 200 g of silica gel (40-63 μm), eluting with 10% MeOH in EtOAc (7×300 mL). The filtrate was concentrated under reduced pressure and dried at 65° C. to afford the title compound;

reactant | 2-cyclohexyl-5-methyl-1H-pyrazol-3(2H)-one | 2834 mmol, 525 g | C1(CCCCC1)N1NC(=CC1=O)C | C10H16N2O
reactant | methyl iodide | 8502 mmol, 532 mL | CI | CH3I
reactant | methyl iodide | 2834 mmol, 177 mL | CI | CH3I
reactant | water | 500 mL | O | H2O
reactant | K2CO3 | 2M, 1700 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 2200 mL | CN(C=O)C | C3H7NO
solvent | DCM | 2500 mL | C(Cl)Cl | CH2Cl2
product | 2-Cyclohexyl-1,5-dimethyl-1H-pyrazol-3(2H)-one | C1(CCCCC1)N1N(C(=CC1=O)C)C | C11H18N2O
